US04748276
In another run following the procedure described in Example 3 using 151.2 g of toluene solution containing 78.5 g of N,N-bis(2-chloroethyl)benzylamine, 39.8 g of phenylacetonitrile, 109 g of 50% aqueous sodium hydroxide solution, 11.6 g of tetra-n-butylammonium hydrogen sulfate, adding the sodium hydroxide solution over a period of twenty minutes and heating the reaction mixture at 85° C. for four hours, there was obtained 74.1 g (70% yield based on N,N-bis(2-chloroethyl)benzylamine) of 1-benzyl-4-cyano-4-phenylpiperidine hydrochloride, m.p. 261°-263° C.

reactant | N,N-bis(2-chloroethyl)benzylamine | 78.5 g | ClCCN(CCCl)CC1=CC=CC=C1 | C11H15Cl2N
reactant | phenylacetonitrile | 39.8 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | sodium hydroxide | 109 g | [OH-].[Na+]
catalyst | tetra-n-butylammonium hydrogen sulfate | 11.6 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 151.2 g | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-4-cyano-4-phenylpiperidine hydrochloride | 74.1 g, 70% yield | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)C#N | InChI=1S/C19H20N2.ClH/c20-16-19(18-9-5-2-6-10-18)11-13-21(14-12-19)15-17-7-3-1-4-8-17;/h1-10H,11-15H2;1H
